US07576115B2
Synthesis of N′-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}-4-(1H-tetrazol-5-yl)benzhydrazide
1-[5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone (0.404 mmol, 110 mg) and 4-(1-H-tetrazol-5-yl)benzhydrazide (0.404 mmol, 83 mg) synthesized in accordance with WO03/037328 were dissolved in dimethylformamide (5 mL) and stirred at 100° C. for 26 hours. The insolubles were filtered off and washed with methanol, and the filtrate was concentrated and separated by silica gel thin layer chromatography (chloroform/MeOH=4/1) to give the desired product as a yellow solid (25 mg, yield 13%).

reactant | 1-[5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 0.404 mmol, 110 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C16H20N2O2
reactant | 4-(1-H-tetrazol-5-yl)benzhydrazide | 0.404 mmol, 83 mg | N1N=NN=C1C1=CC=C(C(=O)NN)C=C1 | C8H8N6O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N′-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}-4-(1H-tetrazol-5-yl)benzhydrazide | 25 mg, yield 13% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(C1=CC=C(C=C1)C1=NN=NN1)=O)O | C24H26N8O2
